US07947684B2
E. 5-{4-[4-(4-Chloro-1H-pyrrolo[3,2-c]pyridin-2-yl)piperidine-1-carbonyl]phenyl}-1H-pyridin-2-one
The title compound is prepared as described in EXAMPLE 31, Part K, but with 4-chloro-2-piperidin-4-yl-1H-pyrrolo[3,2-c]pyridine and 4-(6-oxo-1,6-dihydropyridin-3-yl)benzoic acid as starting materials. Purification was by flash column chromatography on silica gel. 1H NMR (d4-MeOH) δ 7.99 (dd, 1H), 7.87 (d, 1H), 7.77 (d, 1H), 7.66-7.63 (m, 2H), 7.54-7.50 (m, 2H), 7.30 (dd, 1H), 6.65 (d, 1H), 6.41 (s, 1H), 3.96-3.84 (m, 1H), 3.45-3.05 (m, 4H), 2.22-2.01 (m, 2H), 1.92-1.71 (m, 2H). ESI MS (M+1)+: 433, 435 (Cl).

reactant | 4-chloro-2-piperidin-4-yl-1H-pyrrolo[3,2-c]pyridine | ClC1=NC=CC2=C1C=C(N2)C2CCNCC2 | C12H14ClN3
reactant | 4-(6-oxo-1,6-dihydropyridin-3-yl)benzoic acid | O=C1C=CC(=CN1)C1=CC=C(C(=O)O)C=C1 | C12H9NO3
product | 5-{4-[4-(4-Chloro-1H-pyrrolo[3,2-c]pyridin-2-yl)piperidine-1-carbonyl]phenyl}-1H-pyridin-2-one | ClC1=NC=CC2=C1C=C(N2)C2CCN(CC2)C(=O)C2=CC=C(C=C2)C=2C=CC(NC2)=O | C24H21ClN4O2
